Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet / Dilaudid
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ with hx of pancreatic mass presenting with fevers and dark 
urine. Pt with recent diagnosis of pancreatic mass. Pt with 
recent ERCP at which time a biliary stent was placed and 
cytology revealed adenocarcinoma. Since that time the pt has 
initiated chemotherapy. Pt yesterday with fever and abdominal 
pain, called his oncologist and was subsequently sent to the ED.
.
In the ED pt with fever, noted to have elevated transaminases. 
Pt was given Vanc/Cefepime and transfered to the ERCP suite 
where he had his stent exchanged. On arrival to the floor the pt 
has mild abdominal pain, no further fevers, no diarrhea.
.
His complete ROS is otherwise positive for dark urine, no 
pruritis 10 point ROS reviewed and otherwise negative.
 
Past Medical History:
hyperlipidemia  
HTN  
Gastritis/Ulcers  
GERD  
.  
PSx:  
Hx cholecystectomy  
Hx appendectomy  
Hx L shoulder surgery  
R Larynx granuloma excision  

 
Social History:
___
Family History:
mother - lung cancer (heavy smoker)  
brother - died cardiac arrhythmia (ventricular fibrillation)  

 
Physical Exam:
VS: 98.3 156/82 16 97RA
GENERAL: Mildly diaphoretic man in slightly uncomfortable, but 
appropriate.
HEENT: No frank icterus. Otherwise NC/AT, PERRLA, EOMI, MMM, OP 
clear.
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.
HEART: RRR, no MRG, nl S1-S2.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: No significant RUQ reproducible tenderess, otherwise 
obese, Soft/NT/ND, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.
SKIN: No rashes or lesions.
LYMPH: No cervical LAD.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait.
 
Pertinent Results:
Admission Labs:
___ 05:23AM   WBC-15.7*# RBC-4.40* HGB-13.7* HCT-40.4 
MCV-92 MCH-31.1 MCHC-33.9 RDW-12.8
___ 05:23AM   NEUTS-85* BANDS-2 LYMPHS-7* MONOS-4 EOS-0 
BASOS-0 ATYPS-2* ___ MYELOS-0
___ 05:23AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 05:23AM   PLT SMR-NORMAL PLT COUNT-255
___ 05:23AM   ALBUMIN-4.5
___ 05:23AM   LIPASE-39
___ 05:23AM   ALT(SGPT)-618* AST(SGOT)-560* LD(LDH)-562* 
ALK PHOS-164* TOT BILI-2.9* DIR BILI-2.2* INDIR BIL-0.7
.
Discharge Labs:
___ 06:00AM BLOOD WBC-13.1* RBC-4.44* Hgb-14.0 Hct-40.8 
MCV-92 MCH-31.4 MCHC-34.3 RDW-13.0 Plt ___
___ 06:00AM BLOOD Glucose-150* UreaN-7 Creat-0.8 Na-136 
K-3.8 Cl-101 HCO3-26 AnGap-13
___ 06:00AM BLOOD ALT-560* AST-159* AlkPhos-188* 
TotBili-1.5
___ 06:00AM BLOOD Lipase-224*

ERCP
Esophagus:Limited exam of the esophagus was normal
Stomach:Limited exam of the stomach was normal
Duodenum:Limited exam of the duodenum was normal
Major Papilla:Previous sphincterotomy was noted. A previously 
placed stent was noted at the major papilla. This stent was 
removed by snare technique. 
Biliary Tree Fluoroscopic interpretation:
A single stricture of malignant appearance that was 1 cm long 
was seen at the distal CBD. There was severe post-obstructive 
dilation. Proximal CBD measured 2 cm. There was diffuse and mild 
dilatation of intrahepatic ducts. Low level of biliary 
bifurcation was noted. Therefore a decision was made not to 
place a metal stent but instead place plastic stents.

 I supervised the acquisition and interpretation of the 
fluoroscopic images. The quality of the fluoroscopic images was 
good. Total flouro time: 7 min

Procedures:A 5cm by ___ double pig tail biliary stent was 
placed successfully.
A 7cm by ___ Cotton ___ biliary stent was placed 
successfully.  
Impression:
Previous sphincterotomy was noted. A previously placed stent was 
noted at the major papilla. This stent was removed by snare 
technique.
A single stricture of malignant appearance that was 1 cm long 
was seen at the distal CBD. There was severe post-obstructive 
dilation.
A short CBD with a low level of biliary bifurcation was noted. 
Therefore a decision was made not to place a metal stent but 
instead place plastic stents.
A 5cm by ___ double pig tail biliary stent was placed 
successfully.
A 7cm by ___ Cotton ___ biliary stent was placed 
successfully.  

(stent placement)
Otherwise normal ercp to third part of the duodenum

CT ABD&PELVIS:
CT OF THE ABDOMEN:
 
Bibasilar areas of dependent atelectasis are noted. Otherwise, 
imaged lung
bases are clear. There is no pleural effusion. Heart is normal 
in size
without pericardial effusion.
 
Liver enhances homogeneously without focal lesions. Small amount 
of
pneumobilia, predominantly in the left lobe is unchanged. There 
is minimal
intrahepatic biliary ductal dilatation, stable. The hepatic 
vasculature is
patent. The gallbladder is surgically absent. Surgical clips are 
seen within
the resection bed. A biliary stent is in place, which appears 
appropriately
positioned. The CBD is dilated, measuring up to 15 mm, 
previously measuring 6
mm (2:26). There is a hypoenhancing mass centered in the 
pancreatic head
measuring 2.6 x 1.3 x 2.6 cm (2:29, 60___). There is associated 
pancreatic
ductal dilation up to 5 mm, previously 8 mm. Atrophy of the 
distal pancreatic
parenchyma is also noted. There is apparent encasement of the 
superior
mesenteric vein by the mass (2:29). The superior mesenteric 
artery appears
spared. There is no preserved fat plane between the mass and the 
duodenal
wall. Surgical Fiducial markers are seen adjacent to this mass 
(2:28), new
since prior exam. Soft tissue stranding at the level of the 
celiac axis seen
on ___ is less conspicuous today and was likely related to 
post-ERCP
pancreatitis (2:22).
 
The spleen is unremarkable. A splenule is incidentally noted 
(2:17). Adrenal
glands are normal. The kidneys enhance and excrete contrast 
symmetrically
without evidence of hydronephrosis or renal masses. Duplicated 
collecting
system of the right kidney is noted. There is a 1.3 x 1.3 x 1.4 
cm partially
exophytic hypodense lesion arising from the upper pole of the 
left kidney
measuring 20 Hounsfield units in attenuation, compatible with a 
cyst (2:26).
Multiple mesenteric lymph nodes are seen, which do not meet CT 
criteria for
pathologic enlargement. There is no free air or free fluid 
within the
abdomen. The intra-abdominal aorta and its branches are notable 
for calcified
atherosclerotic disease without associated aneurysmal changes.
 
CT OF THE PELVIS:
 
The bladder, distal ureters, seminal vesicles, rectum, and 
sigmoid colon are
unremarkable. There is no free air or free fluid within the 
pelvis. No
pathologically enlarged pelvic or inguinal lymph nodes are seen. 
Small
fat-containing left inguinal hernia is noted. The prostate gland 
appears
enlarged measuring 4.7 x 3.5 cm.
 
OSSEOUS STRUCTURES: No suspicious lytic or sclerotic lesion is 
seen.
 
IMPRESSION:
 
1. Hypoenhancing lesion centered in the head of the pancreas, as 
detailed
above. There is associated pancreatic ductal dilatation and 
distal pancreatic
parenchymal atrophy. There is apparent encasement of the SMV by 
this mass.
 
2. Biliary stent is in place and appears appropriately 
positioned. The CBD
has increased in size, now measuring up to 15 mm.
 
3. Extensive fat stranding at the level of the celiac axis seen 
on ___
exam is less conspicuous and most likely related to post-ERCP 
pancreatitis.
 
4. Duplicated right renal collecting system.
 
Brief Hospital Course:
___ with locally advance pancreatic CA, currently undergoing 
chemotherapy admitted with fever and RUQ, now s/p ERCP with 
stent replacements.
.
# Fever, Transaminitis and RUQ: Pt with signs and symptoms of 
ascending cholangitis. Pt underwent ERCP (described above). Pt 
was clinically stable post-procedure. Advance his diet and was 
discharged the following day with a benign abdomen and afebrile 
along with Cipro x 7 days. 
.
# HTN: Cont lisinopril, nifedipine
.
# Insomnia: Low dose ativan PRN
 
Medications on Admission:
1 nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).
2. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
3. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for Pain.
4. heparin, porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous PRN (as needed) as needed for line flush.
5. heparin lock flush (porcine) 100 unit/mL Syringe Sig: One (1) 
ML Intravenous PRN (as needed) as needed for DE-ACCESSING port.
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
 
Discharge Medications:
1. nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
2. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for Pain.  
4. heparin, porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous PRN (as needed) as needed for line flush.  
5. heparin lock flush (porcine) 100 unit/mL Syringe Sig: One (1) 
ML Intravenous PRN (as needed) as needed for DE-ACCESSING port.  

6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 7 
days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Pancreatic Mass
- Ascending Cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with a bile duct obruction. You 
underwent a replacement of you biliary stent that relieved the 
obstruction. Please continue to take all of your medications. 
You have been initiated on an antibiotic, Ciprofloxacin for 1 
week.
.
Please keep all of your appointments as listed below
 
Followup Instructions:
___